US09353107B2
Step-iii: (S)-1-(4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (120 mg. 0.192 mmol) was alkylated using (S)-2-methyloxirane (14 mg, 0.23 mmol), DIPEA (50 mg, 0.384 mmol) and ethanol (5 mL) to get 100 mg (76.9% yield) of the titled compound. MS: m/z=683.2 (M+1).

reactant | 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.192 mmol, 120 mg | FC=1C=C(C=CC1N1CCNCC1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2 | C34H30F2N6O2S
reactant | (S)-2-methyloxirane | 0.23 mmol, 14 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 0.384 mmol, 50 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol | 100 mg, 76.9% yield | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2)N2CCN(CC2)C[C@H](C)O | C37H36F2N6O3S
